US03953429
3α-Trifluoroacetoxy-5α-pregnane-11,20-dione
A solution of trifluoroacetic anhydride (0.34 ml.) and pyridine (0.24 ml.) in methylene dichloride (10 ml.) was added to a cooled (-80°) and stirred solution of 3α-hydroxy-5α-pregnane-11,20-dione (0.50 g.) in methylene dichloride (20 ml.) and the mixture was allowed to warm up to room temperature. After 11/2 hours more trifluoroacetic anhydride (0.34 ml.) was added and the reaction was complete after 1/2 hour more. The solution was washed successively with water, sodium bicarbonate solution and water. The dried and concentrated solution afforded a crystalline residue that was triturated with petroleum to give the title compound as needles (0.44 g.) m.p. 107°-108°, [α]D + 96°.

reactant | trifluoroacetic anhydride | 0.34 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | pyridine | 0.24 ml | N1=CC=CC=C1 | C5H5N
reactant | 3α-hydroxy-5α-pregnane-11,20-dione | 0.50 g | O[C@H]1C[C@@H]2CC[C@H]3[C@@H]4CC[C@H](C(C)=O)[C@]4(CC([C@@H]3[C@]2(CC1)C)=O)C | C21H32O3
reactant | trifluoroacetic anhydride | 0.34 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | methylene dichloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene dichloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 3α-Trifluoroacetoxy-5α-pregnane-11,20-dione | 0.44 g | FC(C(=O)O[C@H]1C[C@@H]2CC[C@H]3[C@@H]4CC[C@H](C(C)=O)[C@]4(CC([C@@H]3[C@]2(CC1)C)=O)C)(F)F | C23H31F3O4
